US06117881
1-(4-Methoxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This produce was prepared using the same procedure as for Intermediate 1 with tryptamine (15 g, 94.9 mmol), 4-methoxybenzaldehyde (12.9 g, 1.1 equiv.) and TFA (14.6 mL, 2 equiv.) to give the title compound (20.9 g, 80%) as a brownish powder.

reactant | tryptamine | 94.9 mmol, 15 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-methoxybenzaldehyde | 12.9 g, 1.1 equiv. | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | TFA | 14.6 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Methoxyphenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 20.9 g, 80% | COC1=CC=C(C=C1)C1NCCC=2C3=CC=CC=C3NC12 | C18H18N2O
